US07863271B2
Chloroacetyl chloride (11.6 mL, 120 mmol) was added dropwise at 0° C. to a solution of (R)-2-(benzylamino)propan-1-ol (19.9 g, 120 mmol) and triethylamine (30.5 mL) in toluene (600 mL). The cooling bath was removed and the reaction mixture was stirred at room temperature for 18 h. The reaction was concentrated under reduced pressure and the recovered solids dissolved in EtOAc (500 mL) and then washed with saturated bicarbonate (2×250 mL), H2O (250 mL) and saturated brine (250 mL). The organic phase was then dried (Na2SO4), filtered and concentrated to afford (R)-2-(2-(benzylamino)propoxy)acetyl chloride: MS consistent.

reactant | Chloroacetyl chloride | 120 mmol, 11.6 mL | ClCC(=O)Cl | C2H2Cl2O
reactant | (R)-2-(benzylamino)propan-1-ol | 120 mmol, 19.9 g | C(C1=CC=CC=C1)N[C@@H](CO)C | C10H15NO
reactant | triethylamine | 30.5 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-2-(2-(benzylamino)propoxy)acetyl chloride | C(C1=CC=CC=C1)N[C@@H](COCC(=O)Cl)C | C12H16ClNO2
